US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(4-isopropoxyphenyl)-4-pyrimidineamine and 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran were reacted to yield 5-fluoro-N2-(2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.87 (d, 1H, J=3.0 Hz), 7.47–7.42 (m, 3H), 7.12 (dd, 1H, J=2.4 and 8.4 Hz), 6.87 (d, 2H, J=9.6 Hz), 6.80 (d, 1H, J=8.7 Hz), 6.63 (d, 1H, J=2.4 Hz), 5.21 (dd, 1H, J=6.3 and 10.5 Hz), 4.53 (2q, 1H, J=5.7 Hz), 3.80 (s, 3H), 3.52 (dd, 1H, J=10.5 and 15.9 Hz), 3.35 (dd, 1H, J=6.3 and 15.9 Hz), 1.34 (d, 6H, J=5.7 Hz); 19F NMR (CDCl3): −47664; LCMS: ret. time: 23.78 min.; purity: 95%; MS (m/e): 439 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-(4-isopropoxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OC(C)C)F | C13H13ClFN3O
reactant | 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran | NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C10H11NO3
product | 5-fluoro-N2-(2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(CC(O2)C(=O)OC)C1)NC1=CC=C(C=C1)OC(C)C | C23H23FN4O4
